US05885986
0.075 g (0.00019 mol) of 3-(4-dipropylaminomethyl-oxazol-2-yl)-5-methyl-5,6-dihydro-4H-imidazo[1,5-a]thieno-[2,3-f][1,4]diazepin-6-one was dissolved in 50 ml of ethanol and treated with 0.05 ml (0.00019 mol) of 3.7N ethanolic hydrochloric acid. The solution was completely freed from the solvents and recrystallized from ethanol/diethyl ether. There was obtained 0.07 g (86%) of 3-(4-dipropylaminomethyl-oxazol-2-yl)-5-methyl-5,6-dihydro-4H-imidazo[1,5-a]thieno[2,3-f][1,4]-diazepin-6-one hydrochloride as whitish yellow crystals; m.p. 210°-215°.

reactant | 3-(4-dipropylaminomethyl-oxazol-2-yl)-5-methyl-5,6-dihydro-4H-imidazo[1,5-a]thieno-[2,3-f][1,4]diazepin-6-one | 0.00019 mol, 0.075 g | C(CC)N(CCC)CC=1N=C(OC1)C=1N=CN2C1CN(C(C1=C2C=CS1)=O)C | C20H25N5O2S
reactant | hydrochloric acid | 0.00019 mol, 3.7N, 0.05 ml | Cl | ClH
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 3-(4-dipropylaminomethyl-oxazol-2-yl)-5-methyl-5,6-dihydro-4H-imidazo[1,5-a]thieno[2,3-f][1,4]-diazepin-6-one hydrochloride | 0.07 g, 86% | Cl.C(CC)N(CCC)CC=1N=C(OC1)C=1N=CN2C1CN(C(C1=C2C=CS1)=O)C | InChI=1S/C20H25N5O2S.ClH/c1-4-7-24(8-5-2)10-14-12-27-19(22-14)17-16-11-23(3)20(26)18-15(6-9-28-18)25(16)13-21-17;/h6,9,12-13H,4-5,7-8,10-11H2,1-3H3;1H
